US05284847
A mixture of 3-bis(t-butoxycarbonyl)amino-4-cyanothiophene-2-carboxylic acid (18.4 g, 50 mmol) in 2-methyl-2-propanol (400 ml), triethylamine (6.0 g, 59 mmol) and diphenylphosphoryl azide (15.5 g, 55 mmol) was heated at reflux for 17 h. The reaction mixture was concentrated in vacuo, and the residue taken up in dichloromethane which was washed with a 5% citric acid solution followed by water and a sodium bicarbonate solution. The organic phase was dried (Na2so 4) and concentrated in vacuo to give 21.7 g (99%) of 4-bis(t-butoxycarbonyl)amino-5-t-butoxycarbonylamino-3-thiophene carbonitrile as an oil. 1H-NMR (CDCl3, δ): 1.5 (s, 18H), 1.55 (s, 9H), 7.25 (br.s, 1H), 7.45 (s, 1H).

reactant | 3-bis(t-butoxycarbonyl)amino-4-cyanothiophene-2-carboxylic acid | 50 mmol, 18.4 g | C(C)(C)(C)OC(=O)N(C1=C(SC=C1C#N)C(=O)O)C(=O)OC(C)(C)C | C16H20N2O6S
reactant | triethylamine | 59 mmol, 6.0 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 55 mmol, 15.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-methyl-2-propanol | 400 ml | CC(C)(C)O | C4H10O
product | 4-bis(t-butoxycarbonyl)amino-5-t-butoxycarbonylamino-3-thiophene carbonitrile | 21.7 g, 99% | C(C)(C)(C)OC(=O)N(C=1C(=CSC1NC(=O)OC(C)(C)C)C#N)C(=O)OC(C)(C)C | C20H29N3O6S
